US04973697
In the same manner as in Example 1, 1.725 g (15 mmol) of 2,6-difluoropyridine and 2.27 g (18 mmol) of sodium sulfite were reacted at 170° C. for 5 hours. By conducting the same post-treatment as in Example 1, 0.315 g (10.5%) of sodium 2-fluoropyridine-6-sulfonate was obtained.

reactant | 2,6-difluoropyridine | 15 mmol, 1.725 g | FC1=NC(=CC=C1)F | C5H3F2N
reactant | sodium sulfite | 18 mmol, 2.27 g | S(=O)([O-])[O-].[Na+].[Na+]
product | sodium 2-fluoropyridine-6-sulfonate | 0.315 g, 10.5% | FC1=NC(=CC=C1)S(=O)(=O)[O-].[Na+] | InChI=1S/C5H4FNO3S.Na/c6-4-2-1-3-5(7-4)11(8,9)10;/h1-3H,(H,8,9,10);/q;+1/p-1
